US09085555B2
B. 1-{2-Oxo-2-[(S)-2-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidin-1-yl]-ethyl}-1H-indole-3-carboxylic acid
To a solution of 1-{2-oxo-2-[(S)-2-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidin-1-yl]ethyl}-1H-indole-3-carboxylic acid ethyl ester (314 mg, 0.62 mmol) in MeOH (12 mL) and water (1.2 mL) was added NaOH 1N (1.87 mL, 1.87 mmol) and the mixture was heated at 80° C. for 6 h. MeOH was concentrated, HCl 1N was added and the residue was extracted with EtOAc. The organic extracts were dried with Na2SO4, filtered and concentrated. The crude residue was purified by preparative HPLC (Interchrom C18-ODB, 10 μm, 28×250 mm, 20% CH3CN in H2O 2.5 min, then 20% to 100% CH3CN in H2O in 32.5 min, CH3CN and H2O containing 0.1% HCOOH; flow: 40 mL/min) to give after lyophilization of the purified fractions the desired compound. TLC, Rf (EtOAc)=0.05; MS (LC/MS): 498.1 [M+Na]+, 474.1 [M−H]−; tR (HPLC conditions a): 3.48 min.

reactant | 1-{2-oxo-2-[(S)-2-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidin-1-yl]ethyl}-1H-indole-3-carboxylic acid ethyl ester | 0.62 mmol, 314 mg | C(C)OC(=O)C1=CN(C2=CC=CC=C12)CC(N1[C@@H](CCC1)C(NC1=CC(=CC=C1)OC(F)(F)F)=O)=O | C25H24F3N3O5
reactant | NaOH | 1.87 mmol, 1N, 1.87 mL | [OH-].[Na+]
solvent | MeOH | 12 mL | CO | CH4O
solvent | water | 1.2 mL | O | H2O
product | 1-{2-Oxo-2-[(S)-2-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidin-1-yl]-ethyl}-1H-indole-3-carboxylic acid | O=C(CN1C=C(C2=CC=CC=C12)C(=O)O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)OC(F)(F)F)=O | C23H20F3N3O5
